US07335658B2
6-[4-(2-CHLOROBENZOYL)PIPERAZIN-1-YL]PYRIDAZINE-3-CARBOXYLIC ACID (3-METHYLBUTYL)AMIDE
Following the procedure of Example 3, making variations only as required to use 2-chlorobenzoyl chloride in place of isoxazole-5-carbonyl chloride to react with 6-piperazin-1-yl-pyridazine-3-carboxylic acid (3-methylbutyl)amide, the title compound was obtained as a white solid (94% yield). 1H NMR (500 MHz, CDCl3) δ 8.05, 7.85, 7.43-7.46, 7.31-7.40, 7.00, 4.04-4.10, 3.75-3.94, 3.34-3.52, 1.65-1.75, 1.52, 0.94. MS (ES+) m/z 416 (M+1).

reactant | 2-chlorobenzoyl chloride | ClC1=C(C(=O)Cl)C=CC=C1 | C7H4Cl2O
reactant | 6-piperazin-1-yl-pyridazine-3-carboxylic acid (3-methylbutyl)amide | CC(CCNC(=O)C=1N=NC(=CC1)N1CCNCC1)C | C14H23N5O
product | 6-[4-(2-CHLOROBENZOYL)PIPERAZIN-1-YL]PYRIDAZINE-3-CARBOXYLIC ACID (3-METHYLBUTYL)AMIDE | CC(CCNC(=O)C=1N=NC(=CC1)N1CCN(CC1)C(C1=C(C=CC=C1)Cl)=O)C | C21H26ClN5O2
